data/mechanism_extracts/Tetrahedron/10.1016_j.tet.2023.133707.json
{"doi": "10.1016_j.tet.2023.133707", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical diazolation of multisubstituted alkenes with pyrazoles to form N,N'-ethylene-bridged bispyrazoles, with H2 as the sole byproduct", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of the alkene to an alkene radical cation; cathodic reduction of protons to H2", "key_intermediates": [{"name": "alkenyl radical cation A (from one-electron oxidation of alkene 1)", "smiles": null, "role": "reactive"}, {"name": "β-pyrazolyl carbon radical B (after nucleophilic addition of pyrazole to A and deprotonation)", "smiles": null, "role": "reactive"}, {"name": "carbocation intermediate C (from second anodic oxidation of B)", "smiles": null, "role": "reactive"}, {"name": "N,N'-ethylene-bridged bispyrazole product 3 (after second pyrazole addition and deprotonation)", "smiles": null, "role": "transient"}], "electron_flow": "The anode first oxidizes the alkene to a radical cation A, which is trapped by pyrazole and deprotonated to give C-radical B; a second anodic oxidation converts B to cation C, which is captured by a second pyrazole and deprotonated to deliver the bispyrazole, while protons are reduced to H2 at the cathode.", "rate_determining_step": "Initial anodic oxidation of the alkene (suggested by CV: oxidation peak of alkene 1a shifts from ~1.5 V to ~1.1–1.3 V vs SCE in presence of pyrazole)", "probe_reagents": [{"name": "1,1-diphenylethylene (1r)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "other", "observation": "No reaction, indicating a second substituent / specific substitution pattern on the alkene is required"}, {"name": "stilbene (1q)", "smiles": "C(=C/c1ccccc1)\\c1ccccc1", "purpose": "other", "observation": "Only trace product, supporting substrate-scope/mechanistic constraints"}, {"name": "cyclic voltammetry of 1a, 2a, and 1a+2a", "smiles": null, "purpose": "redox_probe", "observation": "2a alone inert; 1a oxidizes at Ep/2 ≈ +1.5 V vs SCE; mixture shifts onset to ~1.1 V and Ep/2 to +1.3 V, indicating pyrazole promotes alkene oxidation"}], "evidence_types_used": ["cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "weak", "notes": "Mechanism is proposed based mainly on CV and literature precedent; no radical-trap (TEMPO/BHT), KIE, or DFT studies were reported. Gram-scale experiment (0.865 g, 55%) demonstrates scalability. Alternative pathways (e.g., direct two-electron oxidation to a vinyl cation, or initial pyrazole oxidation) are not explicitly ruled out, though CV shows pyrazole 2a is inert in the operating window."}
